US09024027B2
A solution of ethyl 2-(3-(methylsulfonamido)-1H-indol-1-yl)acetate (256 mg, 0.864 mmol), di-tert-butyl dicarbonate (283 mg, 1.296 mmol) and DMAP (158 mg, 1.296 mmol) in dry DCM (20 ml) was stirred at room temperature for 2 hours and 30 minutes. The solvent was removed and the crude was purified by flash chromatography on silica gel (petroleum ether:ethyl acetate=7:3) to provide ethyl 2-(3-(N-(tert-butoxycarbonyl)-methylsulfonamido)-1H-indol-1-yl)acetate (248 mg, 0.626 mmol, 72% yield). MS/ESI+ 318.9 [MNa]+.

reactant | ethyl 2-(3-(methylsulfonamido)-1H-indol-1-yl)acetate | 0.864 mmol, 256 mg | CS(=O)(=O)NC1=CN(C2=CC=CC=C12)CC(=O)OCC | C13H16N2O4S
reactant | di-tert-butyl dicarbonate | 1.296 mmol, 283 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 1.296 mmol, 158 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-(3-(N-(tert-butoxycarbonyl)-methylsulfonamido)-1H-indol-1-yl)acetate | 0.626 mmol, 248 mg, 72% yield | C(C)(C)(C)OC(=O)N(S(=O)(=O)C)C1=CN(C2=CC=CC=C12)CC(=O)OCC | C18H24N2O6S
